US08404722B2
Preparation of 2-chloro-N-(4-(((2-hydroxy-1-phenylpropyl)amino)carbonyl)phenyl)benzamide (32a):
to a room temperature mixture of 1-methylmorpholine (602 mg, 5.95 mmol), 1-hydroxybenzotriazole (322 mg, 2.38 mmol), 1-amino-1-phenylpropan-2-ol (300 mg, 1.98 mmol) and 4-(2-chlorobenzamido)benzoic acid (656 mg, 2.38 mmol) dissolved in 10 mL DMF was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (456 mg, 2.38 mmol) all in one portion. The reaction was left to stir at ambient temperature for 20 hours then poured into 30 mL water. The aqueous mixture was extracted with 50 mL 30% dichloromethane in diethyl ether. The organic extract was washed with 3×25 mL water then 20 mL brine, stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a white solid. The solid was suspended in hot ethyl acetate, cooled to room temperature and filtered, drying over a stream of air (658 mg, 81%). ESI+ m/z=409.1 [MH]+.

reactant | 1-methylmorpholine | 5.95 mmol, 602 mg | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 2.38 mmol, 322 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-amino-1-phenylpropan-2-ol | 1.98 mmol, 300 mg | NC(C(C)O)C1=CC=CC=C1 | C9H13NO
reactant | 4-(2-chlorobenzamido)benzoic acid | 2.38 mmol, 656 mg | ClC1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C14H10ClNO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.38 mmol, 456 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | 2-chloro-N-(4-(((2-hydroxy-1-phenylpropyl)amino)carbonyl)phenyl)benzamide | ClC1=C(C(=O)NC2=CC=C(C=C2)C(=O)NC(C(C)O)C2=CC=CC=C2)C=CC=C1 | C23H21ClN2O3
